US08957215B2
N-Ethyl-5-(6-methoxy-1,3-benzothiazol-2-yl)pyridin-2-amine
In a microwave vial were added 2-(6-fluoropyridin-3-yl)-6-methoxy-1,3-benzothiazole (75 mg, 0.289 mmol), water (1.2 mL) and ethylamine in water (70%, 1.2 mL) and the reaction was heated in a microwave oven at 100° C. for 5 min. The precipitated product was filtered off, washed with water and dried in a desicator over P2O5 to yield the product (67 mg) as a white solid. 1H NMR δ ppm 8.62 (d, 1 H) 7.95 (dd, 1 H) 7.82 (d, 1 H) 7.64 (d, 1 H) 7.23 (t, 1 H) 7.07 (dd, 1 H) 6.57 (d, 1 H) 3.83 (s, 3 H) 3.33-3.40 (m, 2 H) 1.16 (t, 3 H); MS m/z (M+H) 286.

reactant | 2-(6-fluoropyridin-3-yl)-6-methoxy-1,3-benzothiazole | 0.289 mmol, 75 mg | FC1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)OC | C13H9FN2OS
reactant | ethylamine | C(C)N | C2H7N
solvent | water | 1.2 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
product | N-Ethyl-5-(6-methoxy-1,3-benzothiazol-2-yl)pyridin-2-amine | 67 mg | C(C)NC1=NC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C15H15N3OS
